US07964594B1
5-Chloro-pyridine-2-carboxylic acid [3-((S)-2-amino-4-ethyl-5,6-dihydro-4H-[1,3]oxazin-4-yl)-4-fluoro-phenyl]-amide
The coupling of [(S)-4-(5-amino-2-fluoro-phenyl)-4-ethyl-5,6-dihydro-4H-[1,3]oxazin-2-yl]-carbamic acid tert-butyl ester from experiment F2 (R3=Et) and 5-chloro-pyridine-2-carboxylic acid followed by deprotection using procedure H yielded the title compound.

reactant | [(S)-4-(5-amino-2-fluoro-phenyl)-4-ethyl-5,6-dihydro-4H-[1,3]oxazin-2-yl]-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NC=1OCC[C@@](N1)(CC)C1=C(C=CC(=C1)N)F)=O | C17H24FN3O3
reactant | 5-chloro-pyridine-2-carboxylic acid | ClC=1C=CC(=NC1)C(=O)O | C6H4ClNO2
product | 5-Chloro-pyridine-2-carboxylic acid [3-((S)-2-amino-4-ethyl-5,6-dihydro-4H-[1,3]oxazin-4-yl)-4-fluoro-phenyl]-amide | NC=1OCC[C@@](N1)(CC)C=1C=C(C=CC1F)NC(=O)C1=NC=C(C=C1)Cl | C18H18ClFN4O2
